US08609898B2
Chloroacetyl chloride in diethylether was added dropwise to N-methyloctylamine in diethylether at −2° C. The organic solution was returned to room temperature, followed by stirring for 3 hours. The resulting solution was successively washed with an aqueous 1 mol/L hydrochloric acid solution and water, and then dried over anhydrous sodium sulfate. After removal the solvent under vacuum, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=23:2) to give N-methyl-N-octyl-chloroacetamide (yield: 66.4%).

reactant | Chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | N-methyloctylamine | CNCCCCCCCC | C9H21N
solvent | diethylether | C(C)OCC | C4H10O
product | N-methyl-N-octyl-chloroacetamide | yield: 66.4% | CN(C(CCl)=O)CCCCCCCC | C11H22ClNO
